US08253899B2
<Synthesis of acenaphtho[1,2-b] quinoxaline-9-carboxylic acid>
500 mL of dimethylformaldehyde was added to a mixture of 10 g of purified acenaphthenequinone and 84 g of 3,4-diaminobenzoic acid. The reactant continued to be stirred at room temperature for 21 hours. The precipitate was filtered to obtain a crude composition. This crude composition was dissolved in heated dimethylformamide, filtered again and purified by washing in dimethylformamide and water.

reactant | dimethylformaldehyde | 500 mL | CC(=O)C | C3H6O
reactant | acenaphthenequinone | 10 g | C1(C(C2=CC=CC3=CC=CC1=C23)=O)=O | C12H6O2
reactant | 3,4-diaminobenzoic acid | 84 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | acenaphtho[1,2-b] quinoxaline-9-carboxylic acid | C1=CC=C2C=CC=C3C2=C1C1=NC2=CC=C(C=C2N=C13)C(=O)O | C19H10N2O2
